US04276304
A mixture of 14.3 g of 1-(2,3,4-trimethoxyphenyl)-2-methyl-2-nitropropanol, 11.9 g of thionyl chloride and 150 ml of anhydrous benzene is refluxed for 3.5 hours. After the reaction, the reaction mixture is evaporated to remove solvent. The residue (yellow oil) is purified by silica gel chromatography (Solvent: n-hexane-ethyl acetate (10:1). 11.4 g of 1-(2,3,4-trimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane are thereby obtained as a yellow oil.

reactant | 1-(2,3,4-trimethoxyphenyl)-2-methyl-2-nitropropanol | 14.3 g | COC1=C(C=CC(=C1OC)OC)C(C(C)([N+](=O)[O-])C)O | C13H19NO6
reactant | thionyl chloride | 11.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,3,4-trimethoxyphenyl)-1-chloro-2-methyl-2-nitropropane | 11.4 g | COC1=C(C=CC(=C1OC)OC)C(C(C)([N+](=O)[O-])C)Cl | C13H18ClNO5
